US07396844B1
Synthesis of N-[2-(3-cyanophenoxy)ethyl]-4-cyanobenzthioamide
1.46 g (5.00 mmol)) of N-[2-(3-cyanophenoxy)ethyl]-4-cyanobenzamide was dissolved in 50 ml of toluene. 3.03 g (7.5 mmol) of 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide was added to the solution, and the obtained mixture was heated under reflux for 4 hours. The precipitate was removed by the filtration, and the solvent was evaporated under reduced pressure. The residue was purified by the silica gel column chromatography, and the title compound was obtained.

reactant | N-[2-(3-cyanophenoxy)ethyl]-4-cyanobenzamide | C(#N)C=1C=C(OCCNC(C2=CC=C(C=C2)C#N)=O)C=CC1 | C17H13N3O2
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 7.5 mmol, 3.03 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-(3-cyanophenoxy)ethyl]-4-cyanobenzthioamide | C(#N)C=1C=C(OCCNC(C2=CC=C(C=C2)C#N)=S)C=CC1 | C17H13N3OS
